US07906517B2
(4-Benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-yl)-methanol (1.10 g) is dissolved in methylene chloride (10 ml), and thereto is added thionyl chloride (332 μl) and the mixture is stirred at room temperature for 30 minutes. The reaction solution is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→9:1) to give 4-benzyloxy-2-chloromethyl-5′-isopropyl-2′-methoxy-biphenyl (1.15 g). MS (m/z): 345

reactant | (4-Benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-2-yl)-methanol | 1.10 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)CO | C24H26O3
reactant | thionyl chloride | 332 μl | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyloxy-2-chloromethyl-5′-isopropyl-2′-methoxy-biphenyl | 1.15 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)C(C)C)OC)CCl | C24H25ClO2
